US07982045B2
2′-(Methoxycarbonylaminomethyl)biphenyl-2-carboxylic acid (3-methylbutyl)amide
From 0.34 mmol of 2′-aminomethylbiphenyl-2-carboxylic acid (3-methylbutyl)amide (precursor 5 c) and methyl chloroformate, according to the general working procedure followed by extraction with EA and purification by flash chromatography 29 mg of 2′-(methoxycarbonylaminomethyl)biphenyl-2-carboxylic acid (3-methylbutyl)amide were obtained as a resin.

reactant | 2′-aminomethylbiphenyl-2-carboxylic acid (3-methylbutyl)amide | 0.34 mmol | CC(CCNC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CN)C | C19H24N2O
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 2′-(Methoxycarbonylaminomethyl)biphenyl-2-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CNC(=O)OC)C | C21H26N2O3
